US07399780B2
1-[(5-Bromo-6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine
The title compound was prepared as described for Example 3 using 1-methylpiperazine and 5-bromo-6-chloropyridine-3-sulfonyl chloride. Yield: 91%: 1H NMR (CDCl3, 400 MHz) δ 8.59 (d, J=2 Hz, 1 H), 7.67 (d, J=2 Hz, 1 H), 3.08-3.01 (m, 4 H), 2.43 (t, J=5 Hz, 4 H), 2.22 (s, 3 H); 13C NMR (CDCl3, 100 MHz) δ 155.5, 146.8, 141.2, 132.7, 121.4, 54.2, 46.3, 46.1.

reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 5-bromo-6-chloropyridine-3-sulfonyl chloride | BrC=1C=C(C=NC1Cl)S(=O)(=O)Cl | C5H2BrCl2NO2S
product | 1-[(5-Bromo-6-chloropyridin-3-yl)sulfonyl]-4-methylpiperazine | Yield: 91% | BrC=1C=C(C=NC1Cl)S(=O)(=O)N1CCN(CC1)C | C10H13BrClN3O2S
